US06407120B1
Diethylamine (0.815 mL, 576 mg, 7.86 mmol) was added in one portion to a solution of 4-nitrobenzenesulfonyl chloride (582 mg, 2.62 mmol) in dichloromethane (10 mL). The resultant solution was stirred at 23° C. for 14 hours and then washed twice with 1N HCl (15 mL). The organics were dried over magnesium sulfate and concentrated to provide N,N-Diethyl-4-nitro-benzenesulfonamide as an off-white solid (617 mg).

reactant | Diethylamine | 7.86 mmol, 0.815 mL, 576 mg | C(C)NCC | C4H11N
reactant | 4-nitrobenzenesulfonyl chloride | 2.62 mmol, 582 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N,N-Diethyl-4-nitro-benzenesulfonamide | 617 mg | C(C)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC | C10H14N2O4S
